* Testcase 000476 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVBD VBD 0 0.54
VIIN IIN 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VVBN VBN 0 0.54
VVBC VBC 0 0.54

* Circuit
XM1 N5 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 IIN IIN VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM3 N10 N10 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM4 N18 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM5 N16_MID N16_MID VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM6 N9 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM7 VBD IIN VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM8 IIN VBN GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM9 N13 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM10 N10 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM11 GND GND GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM12 N2 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM13 GND GND GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM14 N14 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM15 N20 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM16 N16_MID VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM17 N17 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM18 N4 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM19 N3 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM20 N20_OUT N10 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM21 N21 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM22 N11 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM23 N23 N16_MID VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM24 N2 N2 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM25 GND GND GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM26 N16 N2 VDD VDD sky130_fd_pr__pfet_01v8 l=0.5 w=5
XM27 N8 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM28 IOUT VBC GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM29 N29 VBD GND GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let power_dc = abs(i(VVDD)) * 1.8
let vout_dc = v(IOUT)
print power_dc vout_dc

quit
.endc

.end
