* Testcase 000487 — Full Analysis (sky130 tt corner)
* SKY130 model header — replaces the ideal level-1 .model cards
* Ships with the demo; the paths point at the local sky130 PDK checkout.
* NOTE: libs.tech/ngspice/all.spice sets ".option scale=1.0u", so every
* instance L/W below is written in microns WITHOUT a "u" suffix.
.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice
.include /home/idies/workspace/Temporary/xyu1/scratch/skywater-pdk-libs-sky130_fd_pr/models/corners/tt/specialized_cells.spice
.model DIDEAL D   is=1e-14 n=1
.options reltol=1e-3 itl1=500 itl2=100

* Sources
VVDD VDD 0 1.8
VVINp VINp 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)
VVINn VINn 0 DC 0.9 AC 1 SIN(0.9 0.1 1MEG 0 0)

* Circuit
L1 VDD N6 10n
L2 VDD N7 10n
L3 VDD N8 10n
L4 VDD N9 10n
R4 N6 N1 10k
R3 N7 N2 10k
R2 N8 VOUTp 10k
R1 N9 VOUTn 10k
ISS1 N3 GND 1u
ISS2 N4 GND 1u
ISS3 N5 GND 1u
XM1 N1 VINp N3 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM2 N2 VINn N3 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM3 VOUTp N1 N4 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM4 VOUTn N2 N4 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM5 N1 VOUTp N5 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM6 N2 VOUTn N5 GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM7 N1 N2 VINp GND sky130_fd_pr__nfet_01v8 l=0.5 w=5
XM8 N2 N1 VINn GND sky130_fd_pr__nfet_01v8 l=0.5 w=5

.control
set filetype=ascii

op
let vdd_current = abs(i(VVDD))
let power_dc = vdd_current * 1.8
print power_dc

print all

quit
.endc

.end
